US08309542B2
(c) N-(1-Methyl-2-thiophen-2-yl-ethyl)-formamide
A solution of 5.9 g (33.4 mmol) 1-methyl-2-thiophen-2-yl-ethylamine in 34.8 ml (417.7 mmol) ethyl formate is refluxed for 16 hours. Then the mixture is cooled and evaporated to dryness i. vac.

reactant | 1-methyl-2-thiophen-2-yl-ethylamine | 33.4 mmol, 5.9 g | CC(CC=1SC=CC1)N | C7H11NS
reactant | ethyl formate | 417.7 mmol, 34.8 ml | C(=O)OCC | C3H6O2
product | N-(1-Methyl-2-thiophen-2-yl-ethyl)-formamide | CC(CC=1SC=CC1)NC=O | C8H11NOS
